US09107946B2
Preparation of 2-chloro-4-(1-pyrrolidinylmethyl)-benzaldehyde
Reaction under N2 atmosphere. A solution of 1-[(4-bromo-3-chlorophenyl)methyl]-pyrrolidine (25.8 g, 93.96 mmol) in THF (200 ml) was stirred at −78° C. for 15 min A 2.5 M n-BuLi solution in hexane was added to the mixture over a period of 15 min. After 30 min, a solution of DMF (7.3 ml, 93.96 mmol) in THF (50 ml) was added dropwise to the mixture. The reaction temperature was allowed to rise to r.t. slowly, and the mixture was stirred overnight. The reaction was quenched by the addition of water at 0° C. The mixture was extracted with EtOAc (3×150 ml). The combined organic layer was washed with brine, dried (MgSO4), filtered and the solvent was evaporated in vacuo.

reactant | 1-[(4-bromo-3-chlorophenyl)methyl]-pyrrolidine | 93.96 mmol, 25.8 g | BrC1=C(C=C(C=C1)CN1CCCC1)Cl | C11H13BrClN
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | DMF | 93.96 mmol, 7.3 ml | CN(C)C=O | C3H7NO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-chloro-4-(1-pyrrolidinylmethyl)-benzaldehyde | ClC1=C(C=O)C=CC(=C1)CN1CCCC1 | C12H14ClNO
